US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-piperidin-2-one
To a solution of 2-Amino-4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile hydrochloric acid salt (143 mg, 0.308 mmol), EXAMPLE 814, Part E, in 2 mL of ethanol is added triethylamine (0.05 mL, 0.366 mmol), glacial acetic acid (0.02 mL, 0.366 mmol) and triazine (15 mg, 0.183 mmol). The resulting mixture is refluxed overnight. The volatile solvents are removed on the rotovap, and the residue is purified by reverse phase HPLC (0-50% Acetonitrile/H2O). The desired product (110 mg, 55% yield) is isolated as a white powder with a melting point of 128-132 ° C. C22H21ClN6O MS m/z: 421, 423. Anal. calcd. for C22H21ClN6O: C, 48.12; H,3.57; N, 12.95. Found: C, 45.79; H, 3.68; N, 11.94. H NMR (CD3OD) δ: 8.67 (s, 1H); 8.31 (d, 1H, J=4.0 Hz); 7.83-7.55 (m, 5H); 4.93-4.73 (m, 2H); 3.48-3.42 (m, 2H); 3.31-3.21 (m, 2H); 2.71-2.58 (m, 2H); 2.43-2.33 (m, 1H); 2.07-2.01 (m, 1H); 1.82-1.69 (m, 1H).

reactant | 2-Amino-4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile hydrochloric acid salt | 0.308 mmol, 143 mg | Cl.NC1=C(C#N)C=CC(=C1)CN1C(CC(CC1)CC1=NC2=C(N1)C=C(C=C2)Cl)=O
reactant | triethylamine | 0.366 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.366 mmol, 0.02 mL | C(C)(=O)O | C2H4O2
reactant | triazine | 0.183 mmol, 15 mg | N1=NN=CC=C1 | C3H3N3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-piperidin-2-one | 110 mg, 55% yield | NC1=NC=NC2=CC(=CC=C12)CN1C(CC(CC1)CC1=NC2=C(N1)C=C(C=C2)Cl)=O | C22H21ClN6O
